US04249931
Preparation of 2-p-chlorophenyl-3(3-carbomethoxypropionyl)5-propoxymethyl oxazolidine
To 25.6 milliliters of 25 percent w/v, 2-p-chlorophenyl-5-propoxymethyl oxazolidine solution in 50 milliliters of benzene was added 3.8 grams of 3-carbomethoxypropionyl chloride. To this reaction mixture was added 2 grams of 50% sodium hydroxide. Upon completion of the reaction solvent, benzene, was removed in vacuo. There was obtained 6.0 grams of the title compound, nD30 1.4975. Analytical data supports the structure.

reactant | 2-p-chlorophenyl-5-propoxymethyl oxazolidine | ClC1=CC=C(C=C1)C1OC(CN1)COCCC | C13H18ClNO2
reactant | 3-carbomethoxypropionyl chloride | 3.8 grams | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
reactant | sodium hydroxide | 2 grams | [OH-].[Na+]
solvent | benzene | 50 milliliters | C1=CC=CC=C1 | C6H6
product | 2-p-chlorophenyl-3(3-carbomethoxypropionyl)5-propoxymethyl oxazolidine | 6.0 grams | ClC1=CC=C(C=C1)C1OC(CN1C(CCC(=O)OC)=O)COCCC | C18H24ClNO5
